US07872009B2
Step 3: 2-(2-Bromo-5-fluorophenyl)cyclopropanecarboxylic acid
A solution of 2-(2-bromo-5-fluorophenyl)-N-methoxy-N -methylcyclopropane-carboxamide (304 mg, 1.0 mmol), 10 M potassium hydroxide (3.5 mL, 35 mmol), and dioxane (2.5 mL) was heated at 130° C. in a sealed tube for 19 h. Upon cooling to room temperature, the reaction mixture was acidified with 3 M HCl (20 mL), and the product was extracted with 5% methanol/dichloromethane (3×30 mL). The organic fractions were combined, dried over sodium sulfate, and concentrated to afford the title compound as a white solid. MS m/z: 259 & 261 (M+1).

reactant | 2-(2-bromo-5-fluorophenyl)-N-methoxy-N -methylcyclopropane-carboxamide | 1.0 mmol, 304 mg | BrC1=C(C=C(C=C1)F)C1C(C1)C(=O)N(C)OC | C12H13BrFNO2
reactant | potassium hydroxide | 35 mmol, 10 M, 3.5 mL | [OH-].[K+]
reactant | HCl | 3 M, 20 mL | Cl | ClH
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Bromo-5-fluorophenyl)cyclopropanecarboxylic acid | BrC1=C(C=C(C=C1)F)C1C(C1)C(=O)O | C10H8BrFO2
